US05856573
A 40% methylamine-methanol solution (1.63 g, 0.021 mol) was added to a mixed solution of ethyl 2-[2-{(1-ethoxyethyl)oxymethyl}phenyl]-2-oxoacetate (1.96 g, 0.007 mol) and THF (7 ml) under ice-cooling. The mixture was stirred at room temperature for 1 hour. After completion of the reaction, water (100 ml) was added, and the mixture was extracted with dichloromethane (80 ml) twice. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel chromatography (ethyl acetate/n-hexane) to obtain 2-[2-{(1-ethoxyethyl)oxymethyl}phenyl]-N-methyl-2-oxoacetamide (1.35 g, Yield: 72.7%) as a colorless oil. 1H-NMR (CDCl3) δ ppm: 1.17(3H,t,J=7.3), 1.29(3H,d,J=4.9), 2.96(3H,d,J=5.5), 3.41-3.63(2H,m), 4.70-4.92(3H,m), 7.04(1H,brs), 7.33-7.84(4H,m).

reactant | methylamine methanol | 0.021 mol, 1.63 g | CN.CO
reactant | ethyl 2-[2-{(1-ethoxyethyl)oxymethyl}phenyl]-2-oxoacetate | 0.007 mol, 1.96 g | C(C)OC(C)OCC1=C(C=CC=C1)C(C(=O)OCC)=O | C15H20O5
reactant | THF | 7 ml | C1CCOC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | 2-[2-{(1-ethoxyethyl)oxymethyl}phenyl]-N-methyl-2-oxoacetamide | 1.35 g, Yield: 72.7% | C(C)OC(C)OCC1=C(C=CC=C1)C(C(=O)NC)=O | C14H19NO4
